US05302720
A mixture of 4-methylthio-2-nitroaniline (27.6 g), amyl nitrite (22.5 ml) and cupric chloride (4.5 g) in dry benzene (250 ml) was heated under reflux for 9 hours to give 4-methylthio-2-nitrobiphenyl (m.p. 51°-52° C.).

reactant | 4-methylthio-2-nitroaniline | 27.6 g | CSC1=CC(=C(N)C=C1)[N+](=O)[O-] | C7H8N2O2S
reactant | amyl nitrite | 22.5 ml | N(=O)OCCCCC | C5H11NO2
reactant | benzene | 250 ml | C1=CC=CC=C1 | C6H6
product | 4-methylthio-2-nitrobiphenyl | CSC1=CC(=C(C=C1)C1=CC=CC=C1)[N+](=O)[O-] | C13H11NO2S
